US04046785
A 160 ml. electromagnetically stirred autoclave was charged with 2.53 g (0.01 mole) of 2-nitroanthraquinone, 52 g (0.052 mole) of a 4% aqueous solution of sodium hydroxide, and 0.07 g of Raney nickel, and the 2-nitroanthraquinone was hydrogenated at room temperature and a pressure of 6 to 3 Kg/cm2.G with stirring. The reaction was stopped in 6 hours with the absorption of 0.04 mole of hydrogen. The inside of the reactor was purged with nitrogen, and the reaction mixture was filtered in a stream of nitrogen to separate the catalyst. The filtrate was oxidized with air with stirring at 20° to 30° C. for 2 hours to afford 2.1 g of high purity 2-aminoanthraquinone.

reactant | 2-nitroanthraquinone | 0.01 mole, 2.53 g | [N+](=O)([O-])C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | 0.04 mole | [H][H] | H2
catalyst | Raney nickel | 0.07 g | [Ni] | Ni
product | 2-aminoanthraquinone | NC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H9NO2
